US07838674B2
14.c: 7-Bromo-2-(4-methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one
2-(4-Methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one (300 mg; 1.2 mmol) in 48% HBr (30 ml) is treated drop-wise with Br2 (189 mg; 1.2 mmol) dissolved in 48% HBr (0.8 ml). The reaction mixture is heated to 350 C for 10 minutes, poured on NaHCO3/water (20 g/100 ml) and extracted with TBME three times. The organic phases are combined, dried over Na2SO4 and evaporated to dryness, yielding the desired product as brown-yellow crystals. 1H-NMR (400 MHz; DMSO-d6): 9.08 (s, 1H); 8.33 (d, 2H); 7.10 (d, 2H); 5.22 (m, 1H); 3.84 (s, 3H); 3.07 (m, 2H); 2.73 (m, 1H); 2.45 (m, 1H). MS (m/z) ES+: 335, 333 (MH+); 255 (80).

reactant | 2-(4-Methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one | 1.2 mmol, 300 mg | COC1=CC=C(C=C1)C1=NC=2C(CCCC2C=N1)=O | C15H14N2O2
reactant | Br2 | 1.2 mmol, 189 mg | BrBr | Br2
solvent | HBr | 30 ml | Br | BrH
solvent | HBr | 0.8 ml | Br | BrH
product | 7-Bromo-2-(4-methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one | BrC1CCC=2C=NC(=NC2C1=O)C1=CC=C(C=C1)OC | C15H13BrN2O2
